US06825191B2
Synthesis of ethyl 3-[4-(4-chlorobenzoyl)-2-oxo-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-2,3,4,5-tetrahydro-1H-benzo[e][1,4]diazepin-8-yl]propionate
10 mg (0.018 mmol) of 3[4-(4-chlorobenzoyl)-2-oxo-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-2,3,4,5-tetrahydro-1H-benzo[e][1,4]-diazepin-8-propionic acid was dissolved in 2 ml of dichloro-methane. 4 mg (0.02 1 mmol) of 2-chloro-1,3-dimethylimidazonium chloride and 0.005 nil (0.036 mmol) of triethylamine were added to the obtained solution, and they were stirred overnight. The solvent was evaporated and the obtained crude product was treated in the same manner as in step 3 in Example 1 to obtain the title compound.

reactant | 4-(4-chlorobenzoyl)-2-oxo-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-2,3,4,5-tetrahydro-1H-benzo[e][1,4]-diazepin-8-propionic acid | ClC1=CC=C(C(=O)N2CC(N(C3=C(C2)C=CC(=C3)CCC(=O)O)CC3=CC=C(C=C3)C(=O)N3CC=CC3)=O)C=C1 | C31H28ClN3O5
reactant | triethylamine | 0.036 mmol | C(C)N(CC)CC | C6H15N
solvent | dichloro-methane | 2 ml | ClCCl | CH2Cl2
product | ethyl 3-[4-(4-chlorobenzoyl)-2-oxo-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-2,3,4,5-tetrahydro-1H-benzo[e][1,4]diazepin-8-yl]propionate | ClC1=CC=C(C(=O)N2CC(N(C3=C(C2)C=CC(=C3)CCC(=O)OCC)CC3=CC=C(C=C3)C(=O)N3CC=CC3)=O)C=C1 | C33H32ClN3O5
